US07253286B2
4-(Aminophenoxy)-5,6-dimethyl-7H-pyrrolo[2,3-d]-pyrimidine
After adding iron powder (0.1 g), ammonium chloride (0.2 g), ethanol (4 ml) and water (1 ml) to the 4-(nitrophenoxy)-5,6-dimethyl-7H-pyrrolo[2,3-d]-pyrimidine (80 mg) synthesized by the intermediate synthesis method described above, the mixture was stirred at 75–82° C. for 1.5 hours. After returning the reaction system to room temperature and adding tetrahydrofuran (3 ml) and ethyl acetate (3 ml), the mixture was filtered with celite, the filtrate was subjected to liquid separation, and the organic layer was washed with water and saturated brine in that order, dried over sodium sulfate, concentrated to dryness under reduced pressure and washed with diethyl ether to obtain the title compound (22 mg).

reactant | ammonium chloride | 0.2 g | [Cl-].[NH4+]
reactant | ethanol | 4 ml | C(C)O | C2H6O
reactant | water | 1 ml | O | H2O
reactant | 4-(nitrophenoxy)-5,6-dimethyl-7H-pyrrolo[2,3-d]-pyrimidine | 80 mg | [N+](=O)([O-])C1=C(OC=2C3=C(N=CN2)NC(=C3C)C)C=CC=C1 | C14H12N4O3
catalyst | iron | 0.1 g | [Fe] | Fe
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4-(Aminophenoxy)-5,6-dimethyl-7H-pyrrolo[2,3-d]-pyrimidine | 22 mg | NC1=C(OC=2C3=C(N=CN2)NC(=C3C)C)C=CC=C1 | C14H14N4O
